US04194008
N-(2,6-Diethyl-phenyl)-N'-tert.-butyl-thiourea
2,6-Diethyl-phenyl isothiocyanate can be prepared as follows: 100 g of 2,6-diethylaniline in 200 ml of methylene chloride are added dropwise at 0°-5°, whilst stirring, to a mixture of 500 ml of methylene chloride, 300 ml of water, 120 g of calcium carbonate and 92 g of thiophosgene. The mixture is then heated to the reflux temperature until the evolution of CO2 has ended. The cooled batch is filtered and the methylene chloride layer is separated off, dried with calcium chloride and fractionated.

reactant | 2,6-Diethyl-phenyl isothiocyanate | C(C)C1=C(C(=CC=C1)CC)N=C=S | C11H13NS
reactant | 2,6-diethylaniline | 100 g | C(C)C1=C(N)C(=CC=C1)CC | C10H15N
reactant | calcium carbonate | 120 g | C([O-])([O-])=O.[Ca+2]
reactant | thiophosgene | 92 g | C(=S)(Cl)Cl | CCl2S
reactant | CO2 | C(=O)=O | CO2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | water | 300 ml | O | H2O
product | N-(2,6-Diethyl-phenyl)-N'-tert.-butyl-thiourea | C(C)C1=C(C(=CC=C1)CC)NC(=S)NC(C)(C)C | C15H24N2S
